US04709095
To a solution of 2.0 g of 3'-aminomethyl-4'-hydroxy5'-iodopropiophenone in 15 ml of pyridine and 7 ml of ethanol is added 1.4 g of O-methylhydroxylamine hydrochloride, and the mixture is refluxed with heating for 45 minutes. The reaction mixture is treated with activated charcoal and filtered. The filtrate is concentrated under reduced pressure and to the residue is added ice-cold water. To the mixture is added 1.4 g of sodium hydrogencarbonate and stirred. The precipitated crystals are collected by filtration, washed with water and then recrystallized from methanol to give 1.2 g of 3'-aminomethyl-4'-hydroxy-5'-iodopropiophenone O-methyloxime, melting at 156°-157° C. with decomposition.

reactant | 3'-aminomethyl-4'-hydroxy5'-iodopropiophenone | 2.0 g | NCC=1C=C(C=C(C1O)I)C(CC)=O | C10H12INO2
reactant | O-methylhydroxylamine hydrochloride | 1.4 g | Cl.CON
reactant | charcoal | C | CH4
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 3'-aminomethyl-4'-hydroxy-5'-iodopropiophenone O-methyloxime | 1.2 g | CON=C(CC)C1=CC(=C(C(=C1)I)O)CN | C11H15IN2O2
